US07635715B2
In a separate round-bottomed flask, 1-bromo-4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)benzene (487 mg, 1.3 μmol) and [Pd(PtBu3)Br]2 (105 mg, 135 μmol) were mixed. The reaction vessel was evacuated under vacuum and backfilled with argon. Toluene (5 mL) was added, and the mixture was heated to 50° C. for 5 minutes and then transferred by syringe to the enolate solution. The aryl bromide-Pd flask was rinsed with toluene (1 mL) and added to the reaction mixture. The resulting mixture was heated at 50° C. under nitrogen. After 90 minutes, the reaction was cooled to 23° C., diluted with EtOAc (100 mL), and washed with water (50 mL) and brine (50 mL). The organic layer was dried over MgSO4, concentrated in vacuo, and purified by silica gel chromatography (eluant: 4-6% EtOAc/hexane+1% TEA) affording the desired coupled product 1-tert-butyl ethyl 4-(4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate. A solution of the 1-tert-butyl ethyl 4-(4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate in EtOH (10 mL) and water (2 mL) was treated with p-toluenesulfonic acid monohydrate (69.3 mg, 364 μmol). The reaction was stirred at 23° C. for 30 minutes, and then diluted with EtOAc (100 mL) and washed with saturated NaHCO3 solution (2×50 mL) and brine (50 mL), dried over MgSO4, concentrated in vacuo and purified by silica gel chromatography (eluant: 12-16% EtOAc/hexane), affording 155 mg of 1-tert-butyl ethyl 4-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate. MS m/e=486.1 (M+Na)+.

reactant | 1-bromo-4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)benzene | 1.3 μmol, 487 mg | BrC1=C(C=C(C=C1)Cl)C#CC(OCC)(OCC)OCC | C15H18BrClO3
reactant | 1-tert-butyl ethyl 4-(4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate | ClC1=CC(=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)C#CC(OCC)(OCC)OCC | C28H40ClNO7
reactant | p-toluenesulfonic acid monohydrate | 364 μmol, 69.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-tert-butyl ethyl 4-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate | 155 mg | ClC1=CC(=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)C#CC(=O)OCC | C24H30ClNO6
